US08895745B2
Preparation P2: N-[5-(4-Fluoro-phenyl)-3-nitro-pyridin-2-yl]-benzene-1,3-diamine
A mixture of PdCl2dppf (300 mg, 0.4 mmol), N-(5-bromo-3-nitro-pyridin-2-yl)-benzene-1,3-diamine (Preparation P1, 2.5 g, 8.2 mmol) and 4-fluorophenylboronic acid (1.4 g, 10 mmol) in DME (16 ml) and 2N Na2CO3 (16 ml) was deoxygenated by evacuate/fill N2 (×3), then stirred and heated at 80° C. under N2 for 4 hours. After cooling to RT the mixture was partitioned between EtOAc/H2O and then filtered through Celite. The organic layer was washed with brine (×1) then dried (MgSO4), filtered and evaporated. The residue was purified by chromatography on silica (10→50% EtOAc/petrol) to give the title compound (1.66 g) as a dark red/brown solid. 1H NMR (400 MHz, DMSO-d6): 9.85 (1H, s), 8.87 (1H, d), 8.70 (1H, d), 7.82 (2H, dd), 7.33 (2H, t), 7.02 (1H, t), 6.92-6.81 (2H, m), 6.40 (1H, d), 5.15 (2H, s).

reactant | N-(5-bromo-3-nitro-pyridin-2-yl)-benzene-1,3-diamine | 8.2 mmol, 2.5 g | BrC=1C=C(C(=NC1)NC1=CC(=CC=C1)N)[N+](=O)[O-] | C11H9BrN4O2
reactant | 4-fluorophenylboronic acid | 10 mmol, 1.4 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
solvent | DME | 16 ml | COCCOC | C4H10O2
solvent | Na2CO3 | 2N, 16 ml | C(=O)([O-])[O-].[Na+].[Na+]
product | N-[5-(4-Fluoro-phenyl)-3-nitro-pyridin-2-yl]-benzene-1,3-diamine | 1.66 g | FC1=CC=C(C=C1)C=1C=C(C(=NC1)NC1=CC(=CC=C1)N)[N+](=O)[O-] | C17H13FN4O2
